US04131611
Preparation of 3-(p-Chlorobenzyl)-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane
A 16.60 g portion of 3-(p-chlorobenzoyl)-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane (prepared above) is dissolved in 160 ml of benzene and 55.5 g of sodium bis(2-methoxyethoxy)aluminum hydride (70% benzene solution) is added dropwise. The mixture is refluxed for 2 hours, cooled and quenched slowly with 10N sodium hydroxide. Water is added, the organic layer is separated and washed 3 times with water and then dried over sodium magnesium sulfate. Removal of the solvent yields an off-white solid, mp 88°-92° C.

reactant | 3-(p-chlorobenzoyl)-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane | ClC1=CC=C(C(=O)N2CC3(CC3C2)C2=CC=C(C=C2)Cl)C=C1 | C18H15Cl2NO
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 55.5 g | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
product | 3-(p-Chlorobenzyl)-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane | ClC1=CC=C(CN2CC3(CC3C2)C2=CC=C(C=C2)Cl)C=C1 | C18H17Cl2N
